US07247625B2
D. 6-[(3-chloro-4-fluorophenyl)amino]-4,4-diethyl-5-fluoro-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one
Prepared from 6-amino-4,4-diethyl-5-fluoro-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one and 3-chloro-4-fluorophenylboronic acid according to the coupling procedure described in example 1. 1H NMR (DMSO-d6): δ 8.03 (s, 1H), 7.32 (t, J=8.8 Hz, 1H), 7.26 (t, J=9.1 Hz, 1H), 6.92 (m, 2H), 6.83 (m, 1H), 3.29 (s, 3H), 2.12 (m, 2H), 1.92 (m, 2H), 0.84 (t, J=7.2 Hz, 6H); MS (ESI) m/z 381/383 ([M+H]+); MS (ESI) m/z 379/381 ([M−H]−); Anal. calcd for C19H19ClF2N2O2: C, 59.93; H, 5.03; N, 7.36. Found: C, 59.68; H, 4.92; N, 7.14.

reactant | 6-amino-4,4-diethyl-5-fluoro-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | NC=1C=CC2=C(C(OC(N2C)=O)(CC)CC)C1F | C13H17FN2O2
reactant | 3-chloro-4-fluorophenylboronic acid | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
product | 6-[(3-chloro-4-fluorophenyl)amino]-4,4-diethyl-5-fluoro-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | ClC=1C=C(C=CC1F)NC=1C=CC2=C(C(OC(N2C)=O)(CC)CC)C1F | C19H19ClF2N2O2
